US06737429B2
A solution of 1.3 g of ethyl 5-iodo-4-isopropyl-2-methyl-1H-pyrrole-3-carboxylate in 8 ml of anhydrous dimethyl sulphoxide was stirred under nitrogen at room temperature and 39 mg of lithium hydride added followed after 10 min by 0.86 g of bis-(3,5-dichlorophenyl) disulphide. The mixture was stirred under nitrogen and heated at 60° C. for 6 h then stood at room temperature for 16 h. The mixture was diluted with 150 ml of water and extracted three times with 75 ml of diethyl ether. Combined extracts were washed with 50 ml of brine then dried over anhydrous magnesium sulphate, filtered and evaporated to give a brown gum which crystallised. Recrystallisation from methylcyclohexane gave 0.66 g of ethyl 5-(3,5-dichlorophenylsulphanyl)-4-isopropyl-2-methyl-1H-pyrrole-3-carboxylate of melting point 148-151° C.; mass spectrum (EI) m/z 371[M]+.

reactant | ethyl 5-iodo-4-isopropyl-2-methyl-1H-pyrrole-3-carboxylate | 1.3 g | IC1=C(C(=C(N1)C)C(=O)OCC)C(C)C | C11H16INO2
reactant | lithium hydride | 39 mg | [H-].[Li+]
reactant | bis-(3,5-dichlorophenyl) disulphide | 0.86 g | ClC=1C=C(C=C(C1)Cl)SSC1=CC(=CC(=C1)Cl)Cl | C12H6Cl4S2
solvent | dimethyl sulphoxide | 8 ml | CS(=O)C | C2H6OS
solvent | water | 150 ml | O | H2O
product | ethyl 5-(3,5-dichlorophenylsulphanyl)-4-isopropyl-2-methyl-1H-pyrrole-3-carboxylate | 0.66 g | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=C(N1)C)C(=O)OCC)C(C)C | C17H19Cl2NO2S
